* C:\users\pranshumalik14\My Documents\academics\ece331-labs\lab2-sims\nmos_current_mirror_dc_out_swing.asc
M1 N003 N003 0 0 ALD1101 W=1.379e-3 L=1E-6
M2 N002 N003 0 0 ALD1101 W=1.379e-3 L=1E-6
V1 N001 0 5
R1 N001 N003 3.6225913k
Vo N002 0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\pranshumalik14\My Documents\LTspiceXVII\lib\cmp\standard.mos
.dc Vo 0 5 0.001
.lib ECE331_354.lib
.backanno
.end
