* E:\1. Undergraduate Studies\1. Course Materials\Year_3_Semester_1\ECE331\term-test-sim.asc
M1 N002 P001 N004 0 IDEAL_NMOS W=1.379e-3 L=1E-6
Rsource N004 0 20k
RD N001 N002 8k
Ro N002 N004 50k
RS P001 N003 10k
VS N003 0
VDD N001 0 5
CL N004 0 4.19µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\User\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib ECE331_354.lib
.dc VS 0 5 0.001
.backanno
.end
